US04841093
Into a reaction vessel equipped with a stirrer, condenser and thermometer was placed 0.2 mole of 5-hydroxyisophthalic acid. Thereto were added 0.6 mole of allyl alcohol, 300 ml of toluene, 1.3 g of sulfuric acid and 0.2 g of p-methoxyphenol and the mixture was refluxed with heating. A mixture of toluene and water was distilled off and cooled with a condenser, and toluene was separated from water and returned continuously to the reaction vessel. The mixture was heated for 8 hours and then allowed to cool. At this point, total of distilled water was 7 ml. After the reaction mixture was washed with a saturated aqueous solution of sodium chloride until the aqueous layer did not indicate acidic, toluene was distilled at a reduced pressure. The resulting concentrate was distilled at a reduced pressure to obtain 27 g (yield 52%) of diallyl 5-hydroxy-isophthalate. b.p. 202°~205° C./5 mmHg.

reactant | 5-hydroxyisophthalic acid | 0.2 mole | OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H6O5
reactant | allyl alcohol | 0.6 mole | C(C=C)O | C3H6O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 1.3 g | S(O)(O)(=O)=O | H2O4S
catalyst | p-methoxyphenol | 0.2 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | water | O | H2O
product | diallyl 5-hydroxy-isophthalate | 27 g, yield 52% | OC=1C=C(C=C(C(=O)OCC=C)C1)C(=O)OCC=C | C14H14O5
